US08283353B2
4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of methyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxoheptanoate (1.9 g) and N-(1,4-dioxaspiro[4.5]dec-8-yl)-4H-1,2,4-triazol-3-amine (0.6 g) was stirred at 250° C. for 20 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.75 g, 53%).

reactant | methyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxoheptanoate | 1.9 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OC)C(CCCC)=O | C22H23NO3
reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-4H-1,2,4-triazol-3-amine | 0.6 g | O1CCOC12CCC(CC2)NC2=NN=CN2 | C10H16N4O2
product | 4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.75 g, 53% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC1(OCCO1)CC2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C31H33N5O3
